US08067445B2
Step 1: [2′-Formyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: (4′-bromo-2′-formyl-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester and 1-methylpyrazole-4-boronic acid pinacol ester.

reactant | (4′-bromo-2′-formyl-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)Br)C=O)=O | C18H17BrO4
reactant | 1-methylpyrazole-4-boronic acid pinacol ester | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
product | [2′-Formyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NN(C1)C)C=O)=O | C22H22N2O4
